US06255305B1
a) 4Bromo-1,2-dihydropyridazine-3,6-dione
A mixture of bromomaleic anhydride (50 g, 283 mmol) and sodium acetate (76.5 g, 562 mmol) in 40% acetic acid/water (750 ml) was treated with hydrazine monohydrate (16.5 ml, 339 mmol) at room temperature under nitrogen. The brown solution was stirred and heated at 100° C. for 18 hours. Upon cooling the mixture was poured into water (1 l) and extracted with ethyl acetate (6×500 ml). The combined extracts were dried (MgSO4), filtered and evaporated to afford the title compound (20 g, 37%) as an orange solid. 1H NMR (250 MHz, d6-DMSO) δ 7.68 (1H, br s). MS (ES+) m/e 193 [MH]+, 191 [MH]+. This material was used without further purification.

reactant | bromomaleic anhydride | 283 mmol, 50 g | Br/C=1/C(=O)OC(\C1)=O | C4HBrO3
reactant | sodium acetate | 562 mmol, 76.5 g | C(C)(=O)[O-].[Na+]
reactant | hydrazine monohydrate | 339 mmol, 16.5 ml | O.NN
reactant | water | 1 l | O | H2O
solvent | acetic acid water | 750 ml | C(C)(=O)O.O
product | 4Bromo-1,2-dihydropyridazine-3,6-dione | 20 g, 37% | BrC=1C(NNC(C1)=O)=O | C4H3BrN2O2
